US08383644B2
Step 7. Preparation of (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1-methyl-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester
(S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1-methyl-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester 7-methyl ester was dissolved in THF:methanol (4:1). 2 N lithium hydroxide (0.5 mL) was added and the resulting reaction mixture was stirred at room temperature for 4 hours. Excess 1N HCl was added and the mixture extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, and the solvent was removed under reduced pressure to afford the product in pure form (122 mg).

reactant | (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1-methyl-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester 7-methyl ester | COC(=O)C1N(CC=2C=C3O[C@H](CN(C3=CC2C1)C)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)C(=O)OC(C)(C)C | C32H34Cl2N2O6
reactant | lithium hydroxide | 2 N, 0.5 mL | [OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | THF methanol | C1CCOC1.CO
product | (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1-methyl-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2C=C3O[C@H](CN(C3=CC2CC1C(=O)O)C)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl | C31H32Cl2N2O6
